US05292764
2-(4-Chlorobenzyl)-2,5,5-trimethyl-1-methylenecyclopentane (6.1 g) was dissolved in 60 ml of chloroform, followed by the addition of 8.5 g of m-chloroperbenzoic acid. The resultant mixture was stirred for 5 hours under ice cooling. Calcium hydroxide (4.0 g) was added, followed by stirring at room temperature for 30 minutes. A solid thus precipitated was filtered off. From the chloroform layer as the filtrate, chloroform was distilled off under reduced pressure to obtain a colorless oily substance. The substance was subjected to and purified by chromatography on a silica gel column (eluent: 6:1 mixed solvent of n-hexane and methylene chloride), thereby obtaining 2.0 g of 4-(4-chlorobenzyl)-4,7,7-trimethyl-1-oxaspiro[2.4]heptane used in the above Preparation Example.

reactant | 2-(4-Chlorobenzyl)-2,5,5-trimethyl-1-methylenecyclopentane | 6.1 g | ClC1=CC=C(CC2(C(C(CC2)(C)C)=C)C)C=C1 | C16H21Cl
reactant | m-chloroperbenzoic acid | 8.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Calcium hydroxide | 4.0 g | [OH-].[Ca+2].[OH-]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-chlorobenzyl)-4,7,7-trimethyl-1-oxaspiro[2.4]heptane | 2.0 g | ClC1=CC=C(CC2(C3(CO3)C(CC2)(C)C)C)C=C1 | C16H21ClO
